US05700809
7-Benzyloxy-1,2,3,4-tetrahydroisoquinoline
7-Benzyloxyisoquinoline (1.5 g, 6.37 mmol) in methanol (100 ml) was hydrogenated at 50 psi on a Parr apparatus using platinum oxide (100 mg) as catalyst. The catalyst was collected by filtration, the filtrate evaporated under reduced pressure to give an oil which crystallised on treatment with hexane/diethyl ether to give the title compound (0.96 g, 64%); δH (CDCl3) 2.72 (2H, t, J 6 Hz, CH2), 3.11 (2H, t, J 6 Hz, CH2), 3.90 (2H, s, CH2), 6.62 (1H, d, J 2.25 Hz, tetrahydroisoquinolinyl H), 6.78 (1H, dd, J 5.75, 2.75 Hz, tetrahydroisoquinolinyl H), 6.99 (1H, d, J 9.25 Hz, tetrahydroisoquinolinyl H), and 7.25-7.43 (5H, m, ArH).

reactant | 7-Benzyloxyisoquinoline | 6.37 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=CC=C2C=CN=CC2=C1 | C16H13NO
solvent | methanol | 100 ml | CO | CH4O
catalyst | platinum oxide | 100 mg | [Pt]=O
product | 7-Benzyloxy-1,2,3,4-tetrahydroisoquinoline | 0.96 g, 64% | C(C1=CC=CC=C1)OC1=CC=C2CCNCC2=C1 | C16H17NO
